US04866089
Preparation of 7-(methylmercapto-methoxy)-2,2-dimethyl-4-chromanone
A mixture of 20 ml of a 10% sodium hydroxide solution, 40 ml of dichloromethane, 0.5 g (2 millimoles) of tetrabutyl-ammonium-hydrogensulfate and 10 millimoles of 7-hydroxy-2,2-dimethyl-4-chromanone is intensively stirred for 30 minutes. To the mixture 2.4 g (2,1 ml, 25 millimoles) of chloromethyl-thiomethyl-ether are added, the reaction mixture is stirred for 20 minutes at room temperature and worked up according to Example 12. Thus 2.0 g of the desired compound are obtained in the form of an orange oil, yield 79%.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 7-hydroxy-2,2-dimethyl-4-chromanone | 10 millimoles | OC1=CC=C2C(CC(OC2=C1)(C)C)=O | C11H12O3
reactant | chloromethyl-thiomethyl-ether | 25 millimoles, 2,1 ml, 2.4 g | ClCSCOCSCCl | C4H8Cl2OS2
catalyst | tetrabutyl-ammonium hydrogensulfate | 2 millimoles, 0.5 g | C(CCC)[N+](CCCC)(CCCC)CCCC.S(=O)(=O)(O)[O-]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 7-(methylmercapto-methoxy)-2,2-dimethyl-4-chromanone | 2.0 g, yield 79% | CSCOC1=CC=C2C(CC(OC2=C1)(C)C)=O | C13H16O3S
